US07390835B2
A solution of 164 mg (0.33 mmol) of 3-(1(S)-(4-chlorobenzyl)-2(S)-((1-(3-bromophenyl)-2-cyanoethyl)amino)propyl)benzonitrile (mixture of two diastereomers) in 2 mL of DMF and 0.02 mL of water was treated with 35 mg of Zinc cyanide, 7 mg (0.008 mmol) of tris(dibenzylidineacetone) dipalladium and 11 mg (0.02 mmol) of 1,1′-bis(diphenylphosphino)ferrocene. The solution was degassed by bubbling N2 for 30 min, while the color changed from brown to yellow-orange. The vial was sealed and heated in a microwave reactor at 180° C. for 1 hr. After the reaction cooled, it was filtered through a pad of CELITE, diatomaceous earth, and the solids were washed with ether. The filtrate was diluted with ether, washed with water, and brine, then dried and concentrated. The residue was purified by prep TLC to obtain the less polar isomer, 3-(1(S)-(4-chlorobenzyl)-2(S)-((1-(3-cyanophenyl)-2-cyanoethyl)amino)propyl)benzonitrile (Diastereomer A); LC-MS: m/e=439 (M+1), 441 (M+3) (3.62 min) and more polar isomer 3-(1(S)-(4-Chlorobenzyl)-2(S)-((1-(3-cyanophenyl)-2-cyanoethyl)amino)propyl)benzonitrile (Diastereomer B); LC-MS: m/e=439 (M+1), 441 (M+3) (3.41 min).

reactant | 3-(1(S)-(4-chlorobenzyl)-2(S)-((1-(3-bromophenyl)-2-cyanoethyl)amino)propyl)benzonitrile | 0.33 mmol, 164 mg | ClC1=CC=C(C[C@H]([C@H](C)NC(CC#N)C2=CC(=CC=C2)Br)C=2C=C(C#N)C=CC2)C=C1 | C26H23BrClN3
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 0.02 mL | O | H2O
catalyst | Zinc cyanide | 35 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.02 mmol, 11 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-(1(S)-(4-chlorobenzyl)-2(S)-((1-(3-cyanophenyl)-2-cyanoethyl)amino)propyl)benzonitrile | ClC1=CC=C(C[C@H]([C@H](C)NC(CC#N)C2=CC(=CC=C2)C#N)C=2C=C(C#N)C=CC2)C=C1 | C27H23ClN4
